US05037828
a) 1-Benzyloxy-4-hydroxynaphthalene
23.7 g. (0.147 mole) 1,4-Dihydroxynaphthalene (purified by shaking an ethereal solution thereof with sodium dithionite solution) are dissolved in 200 ml. acetone. After adding 20.3 g. (0.147 mole) of pulverised potassium hydroxide and heating to reflux temperature, 18.6 g. (16.9 ml.) benzyl chloride are added dropwise thereto in the course of 60 minutes. The reaction mixture is thereafter heated under reflux for 4 hours while stirring, evaporated and the residue is mixed with 100 ml. water and extracted with diethyl ether. The ethereal solution is dried with anhydrous magnesium sulphate, filtered and evaporated. The tar-like residue is extracted with cyclohexane. The combined extracts are cooled, considerable amounts of a tarry product thereby first separating out. Thereafter, the pure compound crystallises out. It is washed with cyclohexane and dried. Yield 4.3 g. (11.9% of theory); m.p. 118°-119° C.

reactant | 1,4-Dihydroxynaphthalene | 0.147 mole | OC1=CC=C(C2=CC=CC=C12)O | C10H8O2
reactant | sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | potassium hydroxide | 0.147 mole | [OH-].[K+]
reactant | benzyl chloride | 16.9 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | acetone | CC(=O)C | C3H6O
product | 1-Benzyloxy-4-hydroxynaphthalene | C(C1=CC=CC=C1)OC1=CC=C(C2=CC=CC=C12)O | C17H14O2
